US07544813B2
Synthesis of 1-hexyl-3-methylimidazolium 1,1,2,2-tetrafluoroethanesulfonate (Cation, imidazolium; Anion, Formula 1)
1-Hexyl-3-methylimidazolium chloride (10 g, 0.0493 moles) was mixed with reagent-grade acetone (100 ml) in a large round-bottomed flask and stirred vigorously under a nitrogen blanket. Potassium 1,1,2,2-tetrafluoroethane sulfonate (TFES-K, 10 g, 0.0455 moles) was added to reagent grade acetone (100 ml) in a separate round-bottomed flask, and this solution was carefully added to the 1-hexyl-3-methylimidazolium chloride/acetone mixture. The mixture was left to stir overnight. The reaction mixture was then filtered using a large frit glass funnel to remove the white KCl precipitate formed, and the filtrate was placed on a rotary evaporator for 4 hours to remove the acetone.

reactant | 1-Hexyl-3-methylimidazolium chloride | 0.0493 moles, 10 g | [Cl-].C(CCCCC)[N+]1=CN(C=C1)C
reactant | Potassium 1,1,2,2-tetrafluoroethane sulfonate | 0.0455 moles, 10 g | FC(C(F)F)(S(=O)(=O)[O-])F.[K+]
reactant | 1-hexyl-3-methylimidazolium chloride acetone | [Cl-].C(CCCCC)[N+]1=CN(C=C1)C.CC(=O)C
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-hexyl-3-methylimidazolium 1,1,2,2-tetrafluoroethanesulfonate | FC(C(F)F)(S(=O)(=O)[O-])F.C(CCCCC)[N+]1=CN(C=C1)C | InChI=1S/C10H19N2.C2H2F4O3S/c1-3-4-5-6-7-12-9-8-11(2)10-12;3-1(4)2(5,6)10(7,8)9/h8-10H,3-7H2,1-2H3;1H,(H,7,8,9)/q+1;/p-1
